US07417169B2
Trifluoromethanesulfonic anhydride (1.004 mL) was added to an ice-cooled mixture of 4-bromo-2,6-dimethylphenol (1.00 g) and pyridine (0.482 mL) in methylene chloride (5 mL) with stirring. After being stirred for 10 minutes, the reaction mixture was poured into a mixture of 1 mol/L hydrochloric acid and ethyl acetate. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: diethyl ether/n-hexane=1/20) to afford 4-bromo-2,6-dimethylphenyl trifluoromethanesulfonate (1.439 g).

reactant | Trifluoromethanesulfonic anhydride | 1.004 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-bromo-2,6-dimethylphenol | 1.00 g | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | pyridine | 0.482 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-2,6-dimethylphenyl trifluoromethanesulfonate | 1.439 g | FC(S(=O)(=O)OC1=C(C=C(C=C1C)Br)C)(F)F | C9H8BrF3O3S
